Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
Mirapex / gabapentin
 
Attending: ___.
 
Chief Complaint:
increasing confusion and disorientation
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ is a ___ year-old right handed man who 
presented
to ___ and was trnasferred to ___ for increasing
confusion and disorientation over the past 3 days in the setting
of progressive bradykinesia. His partner states that over the
past ___ weeks he has been getting progressively more rigid and
having difficulty with ambulation, but then on ___ she 
noted
a much more significant change. She noticed that he was talking
to people in the room that were not there. When she asked who he
was talking to he said there was a baby in the room. He then 
also
repeated that he is seeing a very tall man who is coming into 
the
room and leaving without saying anything. He reports no auditory
component to these hallucinations. His partner also noted that 
he
has had several episodes of urinary incontinence over the past
few days. He is unable to describe whether he knew what was
happening during these episodes as he does not remember them. 
She
notes that in the middle of the night on ___, he climbed 
out
of his recling chair where he typically sleeps and was on his 
way
outside. He says that he saw a light outside the door and thinks
that the dog was out. His partner also has noted that he is
scratching almost violently at himself as if he was trying to 
get
bugs off of him. He has been much more disoriented than his 
usual
self and his partner thinks that he is very confused about where
he is and what is going on with him. His partner says that at 
his
baseline he typically sleeps a lot and watches television. She
does feel that he would be able to carry on a conversation
without any problems. 

He cannot identify any particular problem at this time. He says
that he made it to ___ years old and expected that things would
fall apart at this point.

On neuro ROS, the pt denies headache, loss of vision, blurred
vision, diplopia, dysarthria, dysphagia, lightheadedness,
vertigo, tinnitus or hearing difficulty. Denies difficulties
producing or comprehending speech.  Denies focal weakness,
numbness, parasthesiae. 

On general review of systems, the pt denies recent fever or
chills.  No night sweats or recent weight loss or gain. Denies
cough, shortness of breath.  Denies chest pain or tightness,
palpitations.  Denies nausea, vomiting, diarrhea, constipation 
or
abdominal pain.  No recent change in bowel or bladder habits.  
No
dysuria.  Denies arthralgias or myalgias. Denies rash.

 
Past Medical History:
Parkinsonian Syndrome
Multiple head traumas (professional boxing, semi-professional
football, multiple street fights)
Dementia
Atrial Flutter - on anticoagulation
Coronary Artery Disease
BPH
Renal cell carcinoma, s/p nephrectomy
Lumbar spinal stenosis
Hypertension

 
Social History:
___
Family History:
Lives in ___. Former boxer. Former semi-professional
football for the ___. Worked in ___.
Non-smoker. No EtOH.

 
Physical Exam:
ADMISSION PHYSICAL EXAM:
Vitals: 98.0 70 161/92 16 98% RA 
General: Awake, cooperative, NAD.
HEENT: NC/AT, significant axial rotation limitations
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity
Pulmonary: CTABL
Cardiac: RRR, no murmurs
Abdomen: soft, nontender, nondistended
Extremities: no edema, pulses palpated
Skin: no rashes or lesions noted.

Neurologic:
-Mental Status: alert, oriented to hospital (thought BWH),
unclear of month or year. Able to say ___ forward, but lost 
track
of task going backwards. Unable to retain 3 words for testing
memory. Could name thumb, watch, straw. Unable to follow complex
commands. No significant limb apraxia on left or right (can
salute and wave). Unclear whether neglecting visually as he says
there are 7 people in cookie-jar picture, could not understand
line bisection task. Identifies 2 people in room (from both
visual directions). When asked to touch finger he has difficulty
with visual targeting in both hands. Significant motor
impersistence. Grasp reflex.

-Cranial Nerves:
I: Olfaction not tested.
II: PERRL 3 to 2mm and brisk.  blinks to visual threat from both
sides. Funduscopic exam revealed no papilledema, exudates, or
hemorrhages.
III, IV, VI: slow to look to the left, but when moving to the
opposite side he follows to the left. Limited upgaze. No
nystagmus.  
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric. Masked 
facies
VIII: Significant hearing loss b/l
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk, rigid tone throughout. Masked facies.
Cogwheeling seen on left arm greater than right and accentuated
with right hand finger-tapping. No pronator drift bilaterally.
Slight left hand tremor at rest noted. No asterixis noted.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   ___  5   5    5  5     5     5   5
R  5    ___   ___  5   5    5  5     5     5   5

-Sensory: No deficits to light touch, pinprick, cold sensation,
vibratory sense, proprioception throughout. 

-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    2   1
R  2  2    2    2   1
Plantar response was flexor bilaterally.

-Coordination: No intention tremor, no dysdiadochokinesia noted.
No dysmetria on FNF or HKS bilaterally.

-Gait: deferred due to significant instability

DISCHARGE PHYSICAL EXAM:
Vitals: T 98.6, BP 169/98, HR 72, RR 18, 100% on RA
GEN: elderly male sitting in chair in NAD
HEENT: OP clear
PULM: mildly decreased air movement throughout
CV: irregularly irregular
ABD: soft, NT, ND
EXT: no edema

NEURO EXAM:
MS - knew hospital and year
CN - EOMI, PERRL, face symmetrical
MOTOR - ___ throughout, mild cogwheeling rigidity at elbows 
bilaterally with rest tremor bilaterally
COORDINATION - FNF intact
GAIT - walking with walker with ___, mildly unsteady
 
Pertinent Results:
ADMISSION LABS:

___ 09:00PM BLOOD WBC-5.4 RBC-4.55* Hgb-12.2* Hct-38.9* 
MCV-86 MCH-26.9* MCHC-31.4 RDW-14.6 Plt ___
___ 09:00PM BLOOD Neuts-72.4* Lymphs-17.6* Monos-7.8 
Eos-1.4 Baso-0.7
___ 09:00PM BLOOD ___ PTT-46.7* ___
___ 09:00PM BLOOD Glucose-105* UreaN-21* Creat-1.1 Na-140 
K-3.8 Cl-103 HCO3-26 AnGap-15
___ 06:58AM BLOOD ALT-24 AST-34 AlkPhos-64 TotBili-0.5
___ 10:50AM BLOOD CK-MB-7 cTropnT-<0.01 proBNP-2600*
___ 06:58AM BLOOD Calcium-9.0 Phos-2.5* Mg-1.8
___ 06:58AM BLOOD TSH-3.0
___ 06:58AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 09:51AM BLOOD Type-ART pO2-33* pCO2-42 pH-7.40 
calTCO2-27 Base XS-0 Intubat-NOT INTUBA

DISCHARGE LABS:

___ 06:15AM BLOOD WBC-13.7* RBC-4.63 Hgb-12.0* Hct-38.3* 
MCV-83 MCH-25.9* MCHC-31.3 RDW-13.9 Plt ___
___ 06:15AM BLOOD Glucose-115* UreaN-30* Creat-1.1 Na-141 
K-4.2 Cl-103 HCO3-29 AnGap-13
___ 06:15AM BLOOD Calcium-9.1 Phos-2.8 Mg-2.0

REPORTS:
CT HEAD ___: IMPRESSION:  
1. No acute intracranial hemorrhage. 
2. Enlarged ventricluar size out of proportion to size of the 
sulci raising 
possiblity of normal pressure hydrocephalus. Clinical 
correlation suggested. 

CXR ___: 
IMPRESSION: No definite acute cardiopulmonary process.

EEG ___:
IMPRESSION: This is an abnormal EEG because of mild to moderate 
diffuse 
background slowing. These findings are indicative of mild to 
moderate 
diffuse encephalopathy which is etiologically non-specific. 
There were 
no focal asymmetries or epileptiform features. 

ECHO ___: IMPRESSION: Normal regional and global 
biventricular systolic function. No significant valvular 
abnormality. Moderate pulmonary artery systolic hypertension. 
Dilated ascending aorta.  

VIDEO SWALLOW ___: IMPRESSION: 
1. Normal oropharyngeal swallowing. 
2. Mild esophageal dysmotility noted on limited evaluation with 
brief holdup a 13-mm barium tablet at the lower esophagus. 

 
Brief Hospital Course:
___ is a ___ year-old right handed man who 
presented to ___ after his partner describes ___ days of 
significant change in terms of orientation, hallucinations and 
cognitive function. Neurologically has become more alert and 
attentive with stable BPs.  

# Neuro: pt's mental status has improved while here.  We felt 
that neuroleptics were not appropriate medications in this 
patient as they could worsen his parkinsonism and he was 
therefore continued on sinemet and donezepil here.  He had an 
EEG here while only showed encephalpathy. 

# ID: pt's WBC was elevated for some of this admission of 
unclear source.  His temperature was afebrile throughout the 
stay and there were no signs of infection so no further 
investigation was undertaken.

# CV: Pt initially had labile BP's while here. We made some mild 
adjustments to his medications and his BP stabilized.  We 
continued pt on his home dose warfarin while here.  We held his 
lasix while his renal function stabilized and continued his rate 
control for afib.  

# Resp: pt initially had possible pulmonary edema on his 
admission CXR, but this improved with pulmonary toilet, PRN NC 
O2, and albuterol Q2H PRN.

# FEN/GI: Cleared for thin liquids with 1:1 supervision and 
mechanical soft diet.
.
# CODE: FULL

PENDING LABS:
NONE

TRANSITIONAL CARE ISSUES:
Patient will require daily INR checks until INR has fully 
stabilized with goal ___. He will need his creatinine checked to 
ensure normalization and then pending his BP's, may need his 
lasix restarted at that time.

 

 
Medications on Admission:
Warfarin 3.75 M/F 5 mg ___
Sinemet ___ at 8, 12, 4, 8
Sinemet ___ CR at noon
Labetolol 100 mg BID
Amlodipine 5 mg daily
Simvistatin 20 mg daily
Finasteride 5 mg daily
Lisinopril 20 mg daily
Furosemide 40 mg daily
Aspirin 81 mg daily

 
Discharge Medications:
1. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).  
2. carbidopa-levodopa ___ mg Tablet Sig: One (1) Tablet PO 
QID (4 times a day): Q8AM, Q12PM, Q4PM and Q8PM.  
3. simvastatin 10 mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).  
4. finasteride 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
5. lisinopril 20 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
6. aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
7. albuterol sulfate 2.5 mg /3 mL (0.083 %) Solution for 
Nebulization Sig: One (1) neb Inhalation Q2H (every 2 hours) as 
needed for SOB.  
8. donepezil 5 mg Tablet Sig: One (1) Tablet PO HS (at bedtime). 
 
9. senna 8.6 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
10. polyethylene glycol 3350 17 gram Powder in Packet Sig: One 
(1) Powder in Packet PO DAILY (Daily): mix 8oz in nectar 
thickened liquid.  
11. labetalol 100 mg Tablet Sig: 0.5 Tablet PO BID (2 times a 
day).  
12. acetaminophen 325 mg Tablet Sig: ___ Tablets PO Q6H (every 6 
hours) as needed for pain/fever.  
13. fluticasone 110 mcg/actuation Aerosol Sig: Two (2) Puff 
Inhalation BID (2 times a day).  
14. amlodipine 2.5 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
15. warfarin 2.5 mg Tablet Sig: 1.5 Tablets PO DAILY (Daily): 
___.  
16. warfarin 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily): 
___.  
17. Sodium Chloride 0.9%  Flush 3 mL IV Q8H:PRN line flush 
Peripheral line: Flush with 3 mL Normal Saline every 8 hours and 
PRN. 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Parkinsonism
Dementia

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___, 
.
You were admitted to ___ for worsening confusion over several 
days. We performed a head CT and several studies looking for a 
cause for your confusion including infection, electrolyte 
abnormalities, and other toxicities. These were all negative. 
.
During your admission, you developed respiratory distress 
thought to be caused by fluid buildup on your lungs. This 
resolved with diuretics. We also performed an echocardiogram to 
evaluate your heart, and it showed that your heart was pumping 
normally. 
.
For your underlying ___ disease, we started a new 
medication called Aricept to help with alertness throughout the 
day. 
 
Followup Instructions:
___